US05153207
(±)-4-[(4-Methylphenyl)phenylmethoxy]-1-piperidinecaproic acid hydrochloride
A mixture of 8.29 g of (±)-methyl 4-[(4-methylphenyl)-phenylmethoxy]-1-piperidinecaproate hydrochloride in 40 ml of methanol and 28 ml of 2N sodium hydroxide aqueous solution was refluxed for 1 hour and concentrated. Water was added to the residue, made acidic with hydrochloric acid and extracted with chloroform. The extract was dried and concentrated. The residue was solidified by treatment with ethyl acetate and ether. The precipitate was collected by filtration to give 7.73 g of colorless crystals. The crystals were then recrystallized from a mixture of water and acetone to give 5.80 g of colorless prisms, mp 168°~170° C.

reactant | (±)-methyl 4-[(4-methylphenyl)-phenylmethoxy]-1-piperidinecaproate hydrochloride | 8.29 g | Cl.CC1=CC=C(C=C1)C(OC1CCN(CC1)CCCCCC(=O)OC)C1=CC=CC=C1
solvent | methanol | 40 ml | CO | CH4O
solvent | sodium hydroxide | 2N, 28 ml | [OH-].[Na+]
product | (±)-4-[(4-Methylphenyl)phenylmethoxy]-1-piperidinecaproic acid hydrochloride | 7.73 g | Cl.CC1=CC=C(C=C1)C(OC1CCN(CC1)CCCCCC(=O)O)C1=CC=CC=C1 | InChI=1S/C25H33NO3.ClH/c1-20-11-13-22(14-12-20)25(21-8-4-2-5-9-21)29-23-15-18-26(19-16-23)17-7-3-6-10-24(27)28;/h2,4-5,8-9,11-14,23,25H,3,6-7,10,15-19H2,1H3,(H,27,28);1H
